US07652124B2
7 parts by weight of 4,6-diamino-1,3-benzenediol dihydrochloride was dissolved in 33 parts by weight of water deaerated with nitrogen. 5.347 parts by weight of pyridinedicarboxylic acid was dissolved in 64 parts by weight of 1M sodium hydroxide solution and deaerated with nitrogen. The 4,6-diamino-1,3-benzenediol dihydrochloride solution was added dropwise to the disodium pyridinedicarboxylate solution over 10 minutes to form a white precipitate of 4,6-diamino-1,3-benzenediol/pyridinedicarboxylate. In this case, the reaction temperature was kept at 90° C. The obtained salt was filtered, dispersed and mixed into 3,000 parts by weight of water deaerated with nitrogen, and then filtered again. This dispersion, mixing and filtration operation was repeated three times.

reactant | 4,6-diamino-1,3-benzenediol dihydrochloride | Cl.Cl.NC1=C(C=C(C(=C1)N)O)O
reactant | pyridinedicarboxylic acid | N1=C(C(=CC=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | disodium pyridinedicarboxylate | N1=C(C(=CC=C1)C(=O)[O-])C(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 4,6-diamino-1,3-benzenediol pyridinedicarboxylate | NC1=C(C=C(C(=C1)N)O)O.N1=C(C(=CC=C1)C(=O)[O-])C(=O)[O-] | InChI=1S/C7H5NO4.C6H8N2O2/c9-6(10)4-2-1-3-8-5(4)7(11)12;7-3-1-4(8)6(10)2-5(3)9/h1-3H,(H,9,10)(H,11,12);1-2,9-10H,7-8H2/p-2
